US07361770B2
L-valine benzyl ester hydrochoride is N-alkylated with 4-bromomethyl-2′-cyanobiphenyl, the product 4-[(2′-cyanobiphenyl-4-yl)methyl]-(L)-valine benzyl ester so formed is N-acylated with valeryl chloride to give N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester. N-[(2′-cyanobiphenyl-4-yl)methyl]-N-valeryl-(L)-valine benzyl ester is treated with tributyltin azide to give valsartan benzyl ester. Valsartan benzyl ester is subjected to catalytic hydrogenation using for example palladium-charcoal as catalyst to give valsartan.

reactant | Valsartan benzyl ester | CCCCC(=O)N(CC1=CC=C(C=C1)C2=CC=CC=C2C3=NNN=N3)[C@@H](C(C)C)C(=O)OCC4=CC=CC=C4 | C31H35N5O3
catalyst | palladium-charcoal | [Pd] | Pd
product | valsartan | CCCCC(=O)N(CC=1C=CC(=CC1)C=2C=CC=CC2C=3NN=NN3)[C@@H](C(C)C)C(=O)O | C24H29N5O3
